US06610701B2
To a solution of 750 mg (1.95 mmol) benzyl 2-{2-[(tert-butoxycarbonyl) amino]ethyl}benzylcarbamate in 6.0 mL absolute ethanol was added 150 mg of 10% palladium on carbon catalyst. A balloon of hydrogen was bubbled into the stirring suspension at room temperature over 2 h. The reaction was filtered through celite and the filter pad washed with fresh absolute ethanol (2×). The filtrate was concentrated to dryness in vacuo to give tert-butyl 2-[2-(aminomethyl)phenyl]ethylcarbamate as a colorless oil: 1H NMR (CDCl3, 400 MHz): δ7.31-7.19 (m, 4H), 5.68 (br s, 1H), 3.90 (s, 2H), 3.41-3.34 (br m, 2H), 2.90-2.83 (br t, 2H, J=6.8 Hz), 1.41 (s, 9H); MS (Electrospray): M+NH=251.1; TLC Rf=0.24 (160/10/1 of methylene chloride/methanol/concentrated ammonium hydroxide).

reactant | benzyl 2-{2-[(tert-butoxycarbonyl) amino]ethyl}benzylcarbamate | 1.95 mmol, 750 mg | C(C)(C)(C)OC(=O)NCCC1=C(CNC(OCC2=CC=CC=C2)=O)C=CC=C1 | C22H28N2O4
solvent | ethanol | 6.0 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | tert-butyl 2-[2-(aminomethyl)phenyl]ethylcarbamate | NCC1=C(C=CC=C1)CCNC(OC(C)(C)C)=O | C14H22N2O2
